US20010027196A1
To a stirred solution of 197 mg (0.95 mmol) 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine in 15 ml acetic acid was added 178 mg (1.00 mmol) N-bromosuccinimide and stirring continued at room temperature for 48 h. The reaction mixture was then concentrated in vacuo and the residue partitioned between ether and water. The organic phase was dried over, sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/2) followed by trituration in ether/hexane then afforded 93 mg (34%) 5-bromo-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine as a yellow crystalline solid. EI-MS m/e (%): 287 (M{81Br}+, 44), 285 (M{79Br}+, 42), 206 ([M—Br]+, 100).

reactant | 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 0.95 mmol, 197 mg | O1C(=CC=C1)C1=NC(=NC(=C1)SC)N | C9H9N3OS
reactant | N-bromosuccinimide | 1.00 mmol, 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 93 mg, 34% | BrC=1C(=NC(=NC1SC)N)C=1OC=CC1 | C9H8BrN3OS
